US05773449
7-Methoxycarbonyl-4-chloroquinoline(3.75 g, 0.017 mol) was dissolved in methanol (200 ml), added under ice-cooling with sodium borohydride (12.9 g, 0.34 mol) and stirred for an hour. The reaction mixture was poured into ice water. The resulting precipitates were collected by filtration, dried over phosphorus pentoxide and recrystallized from chloroform (20 ml) to obtain 1.0 g (30%) of 7-hydroxymethyl-4-chloroquinoline.

reactant | 7-Methoxycarbonyl-4-chloroquinoline | 0.017 mol, 3.75 g | COC(=O)C1=CC=C2C(=CC=NC2=C1)Cl | C11H8ClNO2
reactant | sodium borohydride | 0.34 mol, 12.9 g | [BH4-].[Na+]
solvent | methanol | 200 ml | CO | CH4O
product | 7-hydroxymethyl-4-chloroquinoline | 1.0 g, 30% | OCC1=CC=C2C(=CC=NC2=C1)Cl | C10H8ClNO
